US05874421
B. Synthesis of Boc-Gly-Ala-Gly
To a solution of Gly-Ala-Gly (10.0 g, 49.2 mmol) in THF (100 ml) and 0.5N sodium hydroxide (100 ml) at 0° C. was added (Boc)2O (11.9 g, 54.5 mmol). The pH was maintained at ~10 over a 5 h period (with 1.0N sodium hydroxide) and the reaction was stirred for 12 h thereafter at room temperature. The pH was adjusted to ~10 and washed with ethyl acetate (100 ml). The pH was then adjusted to ~2 with 1N potassium bisulfate and extracted with ethyl acetate (2×100 ml). The combined extracts were dried (magnesium sulfate), filtered and concentrated to afford 11.0 g (74% yield) of the product as a white powder: 1H NMR (DMSO-d6) δ 1.22 (d, J=7.0 Hz, 3 H), 1.34 (s, 9 H), 3.57 (d, J=5.9 Hz, 2 H), 3.75 (d, J=6.0 Hz, 2 H), 4.33 (apparent quint., J=7.0 Hz, 1 H), 6.96 (t, J=6.1 Hz, 1 H), 7.93 (d, J=7.0 Hz, 1 H), 8.22 (t, J=5.7 Hz, 1 H).

reactant | Gly-Ala-Gly | 49.2 mmol, 10.0 g | NCC(=O)N[C@@H](C)C(=O)NCC(=O)O | C7H13N3O4
reactant | (Boc)2O | 54.5 mmol, 11.9 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 0.5N, 100 ml | [OH-].[Na+]
solvent | sodium hydroxide | 1.0N | [OH-].[Na+]
product | Boc-Gly-Ala-Gly | 11.0 g, 74% yield | N(CC(=O)N[C@@H](C)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C12H21N3O6
